US07732463B2
1-Bromo-2-(2-fluoro-4-methyl-phenylsulfanyl)-5-fluoro-benzene (intermediate for 2q).
Prepared from 2-fluoro-1-iodo-4-methyl-benzene and 2-bromo-4-fluoro-benzenethiol.

reactant | 2-fluoro-1-iodo-4-methyl-benzene | FC1=C(C=CC(=C1)C)I | C7H6FI
reactant | 2-bromo-4-fluoro-benzenethiol | BrC1=C(C=CC(=C1)F)S | C6H4BrFS
product | 1-Bromo-2-(2-fluoro-4-methyl-phenylsulfanyl)-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)SC1=C(C=C(C=C1)C)F | C13H9BrF2S
